* D:\_git\SPICE\Some_Spice_Simulations\SPICE\Time_Domain\Initial_Conditions_RC_Response\Initial_Conditions_RC_Response.asc
R1 Vin Vout 80k tol=5
V1 Vin 0 PULSE(0V 20V 1m 1n 1n 1m)
R2 Vout 0 120k tol=5
C1 Vout 0 1n
.tran 0 2m 0
.ic V(Vout)=12V
;.ic V(Vout) = 20V
.backanno
.end
