* D:\_git\SPICE\Some_Spice_Simulations\SPICE\Time_Domain\Voltage_Divider_Step_Response.asc
R1 Vin Vout 10k tol=5
V1 Vin 0 PULSE(0V 20V 1m 1n 1n 1m)
R2 Vout 0 20k tol=5
.tran 0 2m 0 1ns
.backanno
.end
